US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(3,4-dimethoxyphenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 3,4-dimethoxyphenylboronic acid (157 mg, 0.85 mmol) the subtitle compound was obtained (180 mg, 78%). 1H NMR (CDCl3) δ 8.74(d, 1H), 8.44(dd, 1H), 7.91(d, 1H), 7.62(d, 1H), 7.57(dd, 1H), 7.25(d, 1H), 7.19–7.14(m, 2H), 6.98(d, 1H), 4.07(s, 3H), 3.97(s, 3H), 3.94(s, 3H).

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 3,4-dimethoxyphenylboronic acid | 0.85 mmol, 157 mg | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
product | 2-(3-Nitro-4-methoxyphenyl)-5-(3,4-dimethoxyphenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=C(C=C2)OC)OC | C22H18N2O6
